US08735385B2
Step 2: 1-Allyl-4-(tert-butyl-diphenyl-silanyloxy)-cyclohexanecarboxylic acid ethyl ester
Diisopropylamine (3.14 g, 4.38 mL, 31 mmol) was dissolved in THF (100 mL) and cooled to −78° C. To this solution was added 2.5 M n-butyl lithium in hexane (12.4 mL, 31 mmol) and stirred for 15 min, warmed up to 0° C. and stirred for an additional min, then re-cooled to −78° C. 4-(tert-Butyl-diphenyl-silanyloxy)-cyclohexanecarboxylic acid ethyl ester (10.5 g, 25.6 mmol) in THF (15 mL) was then added and the reaction mixture was allowed to stir at −78° C. for 1 h followed by the addition of a mixture of hexamethyl-phosphoramide (HMPA) (7 mL) and allyl iodide (5.59 g, 33.3.0 mmol). This mixture was stirred at −78° C. for 20 min. Then, the dry ice bath was removed and the stirring was continued to allow the reaction mixture to warm to room temperature over 1 h. The reaction mixture was poured into ice-water (100 mL) and ether (50 mL). The two layers were separated; the aqueous layer was extracted with ether (3×50 mL). The combined organic layers were washed with brine, dried over Na2SO4, and concentrated under vacuum to afford 11.4 g (99%) of the title compound.

reactant | Diisopropylamine | 31 mmol, 4.38 mL, 3.14 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 2.5 M | C(CCC)[Li]
reactant | hexane | 31 mmol, 12.4 mL | CCCCCC | C6H14
reactant | 4-(tert-Butyl-diphenyl-silanyloxy)-cyclohexanecarboxylic acid ethyl ester | 25.6 mmol, 10.5 g | C(C)OC(=O)C1CCC(CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C25H34O3Si
reactant | allyl iodide | 5.59 g | C(C=C)I | C3H5I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | hexamethyl-phosphoramide | 7 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 1-Allyl-4-(tert-butyl-diphenyl-silanyloxy)-cyclohexanecarboxylic acid ethyl ester | 11.4 g, 99% | C(C)OC(=O)C1(CCC(CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC=C | C28H38O3Si
